US07842278B2
Synthesis of 1-(2-nitro-1-imidazolyl)-3-chloro-2-propanol (5)
Epichlorohydrin (100 mL) was added to a mixture of 2-nitroimidazole (11.3 g, 0.1 mol) and 1 g of potassium carbonate and the solution refluxed for 15-20 min until all 2-nitroimidazole was dissolved. The hot solution was filtered and the yellow crystal was collected to give compound (5, 17 g, 83%). 1H NMR (DMSO-d6, δppm): 3.61 (m, 2H, Cl—CH2—), 4.06 (m, 1H, HO—CH—), 4.32 (dd, 1H, N—CHa—, J=13.8 Hz, 8.4 Hz), 4.63 (dd, 1H, N—CHb—, J=13.8 Hz, 3.6 Hz), 5.67 (d, 1H, OH, J=5.7 Hz), 7.15 (s, 1H, —CH═), 7.56 (s, 1H, —CH═). 13C NMR (DMSO-d6, δppm): 46.81, 52.27, 68.75, 127.40, 128.45, 144.98.

reactant | 2-nitroimidazole | 0.1 mol, 11.3 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Epichlorohydrin | 100 mL | C(Cl)C1CO1 | C3H5ClO
product | 1-(2-nitro-1-imidazolyl)-3-chloro-2-propanol | [N+](=O)([O-])C=1N(C=CN1)CC(CCl)O | C6H8ClN3O3
